US07414072B2
2,3,4,6-Tetra-O-acetyl-5-thio-D-glucopyranose (200 mg, 0.55 mmol), 2-acetyl-5-methylresorcinol (182 mg, 1.10 mmol), triphenylphosphine (288 mg, 1.10 mmol) and toluene (2 mL) were mixed, and to the resulting mixture, diisopropyl azodicarboxylate (40% in toluene, 555 mg) was then slowly added dropwise in ice. After stirring at room temperature for 18 hours, the reaction mixture was concentrated and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=70:30-50:50) to give 2-acetyl-3-hydroxy-5-methylphenyl 2,3,4,6-tetra-O-acetyl-5-thio-β-D-glucopyranoside (82 mg, 28%) as a light-yellow powder.

reactant | 2,3,4,6-Tetra-O-acetyl-5-thio-D-glucopyranose | 0.55 mmol, 200 mg | C(C)(=O)O[C@H]1C(O)S[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O9S
reactant | 2-acetyl-5-methylresorcinol | 1.10 mmol, 182 mg | C(C)(=O)C1=C(O)C=C(C=C1O)C | C9H10O3
reactant | triphenylphosphine | 1.10 mmol, 288 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 555 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-acetyl-3-hydroxy-5-methylphenyl 2,3,4,6-tetra-O-acetyl-5-thio-β-D-glucopyranoside | 82 mg, 28% | C(C)(=O)O[C@H]1[C@H](OC2=C(C(=CC(=C2)C)O)C(C)=O)S[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C23H28O11S
